US08048909B2
Ethyl 4-methyl-1H-pyrrole-3-carboxylate
Using p-toluenesulfonylmethyl isocyanide (8.55 g), ethyl crotonate (5.0 g) and potassium tert-butoxide (5.90 g), a procedure as in Reference Example 39 was performed to give the title compound as a pale-yellow solid (yield 4.77 g, 71%).

reactant | p-toluenesulfonylmethyl isocyanide | 8.55 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | ethyl crotonate | 5.0 g | C(\C=C\C)(=O)OCC | C6H10O2
reactant | potassium tert-butoxide | 5.90 g | CC(C)([O-])C.[K+]
product | Ethyl 4-methyl-1H-pyrrole-3-carboxylate | yield 4.77 g, 71% | CC=1C(=CNC1)C(=O)OCC | C8H11NO2
